US06589978B2
c) (2RS,5SR)-5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine-2-carboxylic Acid (pyridin-3-yl-methyl)-amide Hydrochloride
To a stirred and cooled (0° C.) solution of (2RS,5SR)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine-2-carboxylic chloride (764 mg, 2 mmol) in dichloromethane (30 ml) was added pyridine (0.16 ml, 2 mmol) and 3-picolylamine (0.18 ml, 1.8 mmol). The reaction mixture was stirred at room temperature for 22 h. Aqueous work-up, formation of the hydrochloride (3N MeOH/HCl) and crystallization (diethyl ether) yielded the title compound (0.69 g, yield 70%) as a white solid, m.p. 186° C. and MS: m/e=454.5 (M+H+).

reactant | (2RS,5SR)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine-2-carboxylic chloride | 2 mmol, 764 mg | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)C(=O)Cl | C18H17ClFNO3S
reactant | pyridine | 2 mmol, 0.16 ml | N1=CC=CC=C1 | C5H5N
reactant | 3-picolylamine | 1.8 mmol, 0.18 ml | N1=CC(=CC=C1)CN | C6H8N2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (2RS,5SR)-5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine-2-carboxylic Acid (pyridin-3-yl-methyl)-amide Hydrochloride | 0.69 g, yield 70% | Cl.N1=CC(=CC=C1)CNC(=O)C1N(C(CC1)C1=CC=C(C=C1)F)S(=O)(=O)C1=CC=C(C=C1)C | InChI=1S/C24H24FN3O3S.ClH/c1-17-4-10-21(11-5-17)32(30,31)28-22(19-6-8-20(25)9-7-19)12-13-23(28)24(29)27-16-18-3-2-14-26-15-18;/h2-11,14-15,22-23H,12-13,16H2,1H3,(H,27,29);1H
